US07531553B2
Preparation XIII: (R)-N-[3-(Pyrrolidin-2-ylmethoxy)-4-trifluoromethyl-phenyl]-acetamide.
To a solution of (R)-2-(5-acetylamino-2-trifluoromethyl-phenoxymethyl)-1-(tert-butoxycarbonyl)pyrrolidine (1.34 g, 3.33 mol) in 10 mL CH2Cl2 at RT was added 5 mL TFA. The reaction was stirred for 50 min, neutralized with saturated aqueous NaHCO3, and diluted with CH2Cl2 and 2N NaOH. The layers were separated, and the organic layer was brine-washed. The aqueous layers were back-extracted 4 times with CH2Cl2. The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo to yield the title compound.

reactant | (R)-2-(5-acetylamino-2-trifluoromethyl-phenoxymethyl)-1-(tert-butoxycarbonyl)pyrrolidine | 3.33 mol, 1.34 g | C(C)(=O)NC=1C=CC(=C(OC[C@@H]2N(CCC2)C(=O)OC(C)(C)C)C1)C(F)(F)F | C19H25F3N2O4
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 2N | [OH-].[Na+]
product | (R)-N-[3-(Pyrrolidin-2-ylmethoxy)-4-trifluoromethyl-phenyl]-acetamide | N1[C@H](CCC1)COC=1C=C(C=CC1C(F)(F)F)NC(C)=O | C14H17F3N2O2
